US07304081B2
(1R)-1′-({1-[4-(Pyridin-4-ylmethoxy)phenyl]cyclopropyl}-carbonyl)-3H-spiro[2-benzofuran-1,3′-pyrrolidin]-3-one
A mixture of 1-(4-hydroxyphenyl)cyclopropanecarboxylic acid (0.20 g, 1.1 mmol), [(1S,4R)-7,7-dimethyl-2-oxobicyclo[2.2.1]hept-1-yl]methanesulfonic acid-(1R)-3H-spiro[2-benzofuran-1,3′-pyrrolidin]-3-one salt (0.47 g, 1.1 mmol), Benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (0.55 g, 1.2 mmol), and N,N-diisopropylethylamine (0.49 ml, 2.8 mmol) in methylene chloride (3 ml) was stirred at r.t. overnight. Then the reaction was quenched with water, and the reaction mixture was extracted with ethyl acetate. The extract was washed with 1N HCl aqueous solution (×2), water and brine successively; then dried over Na2SO4; and then filtered. The filtrate was concentrated to afford the desired product (0.35 g, yield: 89%).

reactant | 1-(4-hydroxyphenyl)cyclopropanecarboxylic acid | 1.1 mmol, 0.20 g | OC1=CC=C(C=C1)C1(CC1)C(=O)O | C10H10O3
reactant | [(1S,4R)-7,7-dimethyl-2-oxobicyclo[2.2.1]hept-1-yl]methanesulfonic acid-(1R)-3H-spiro[2-benzofuran-1,3′-pyrrolidin]-3-one salt | 1.1 mmol, 0.47 g | N1C[C@]2(CC1)OC(C1=C2C=CC=C1)=O.CC1([C@@]2(C(C[C@H]1CC2)=O)CS(=O)(=O)O)C
reactant | Benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 1.2 mmol, 0.55 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | N,N-diisopropylethylamine | 2.8 mmol, 0.49 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
product | (1R)-1′-({1-[4-(Pyridin-4-ylmethoxy)phenyl]cyclopropyl}-carbonyl)-3H-spiro[2-benzofuran-1,3′-pyrrolidin]-3-one | 0.35 g, yield: 89% | N1=CC=C(C=C1)COC1=CC=C(C=C1)C1(CC1)C(=O)N1C[C@]2(CC1)OC(C1=C2C=CC=C1)=O | C27H24N2O4
